US04151172
A mixture of ethyl-2-(diethoxyphosphinyl)propionate (15 g., 0.063 moles) in 6 N hydrochloric acid (150 ml.) is heated to reflux for 2.5 hours. After this time, the reaction vessel is fitted with a Dean-Stark trap and heated at reflux an additional thirty minutes. The reaction mixture is concentrated in vacuo to yield 2-phosphonopropionic acid (quantitative).

reactant | ethyl-2-(diethoxyphosphinyl)propionate | 0.063 moles, 15 g | C(C)OC(C(C)P(=O)(OCC)OCC)=O | C9H19O5P
solvent | hydrochloric acid | 6 N, 150 ml | Cl | ClH
product | 2-phosphonopropionic acid | P(=O)(O)(O)C(C(=O)O)C | C3H7O5P
